datasets/RMG-dataset.csv
rxn,Ea
[C:0](#[C:1][C:2](=[C:3]=[C:4]([H:7])[H:8])[H:6])[H:5].[C:9]([C:10]([C:11]([H:21])([H:22])[H:23])[c:12]1[c:13]([H:24])[c:14]([H:25])[c:15]([H:26])[c:16]([H:27])[c:17]1[H:28])([H:18])([H:19])[H:20]>>[C:0](#[C:1][C:2]([C:3]=[C:4]([H:7])[H:8])([H:6])[C:10]([C:9]([H:18])([H:19])[H:20])([C:11]([H:21])([H:22])[H:23])[c:12]1[c:13]([H:24])[c:14]([H:25])[c:15]([H:26])[c:16]([H:27])[c:17]1[H:28])[H:5],40.9614
[C:0](=[C:1]([C:2]([H:10])([H:11])[H:12])[C:3]([C:4]([C:5](=[C:6]([H:17])[H:18])[C:7]([H:19])([H:20])[H:21])([H:15])[H:16])([H:13])[H:14])([H:8])[H:9].[O:22][O:23][H:24]>>[C:0](=[C:1]([C:2]([H:10])([H:11])[H:12])[C:3]([C:4]([C:5](=[C:6]([H:17])[H:18])[C:7]([H:19])([H:20])[H:21])([H:15])[H:16])[H:14])([H:8])[H:9].[H:13][O:22][O:23][H:24],39.27253024
[C:0](=[C:1]([H:4])[H:5])([H:2])[H:3].[C:6]([C:7]([C:8]([H:13])([H:14])[H:15])[C:9]([H:16])([H:17])[H:18])([H:10])([H:11])[H:12]>>[C:0](=[C:1]([H:4])[H:5])[H:3].[H:2][C:7]([C:6]([H:10])([H:11])[H:12])([C:8]([H:13])([H:14])[H:15])[C:9]([H:16])([H:17])[H:18],54.4757
[C:0](#[C:1][C:2]=[S:3])[H:4].[C:5]([S:6][H:10])([H:7])([H:8])[H:9]>>[C:0](#[C:1][C:2](=[S:3])[H:7])[H:4].[C:5]([S:6][H:10])([H:8])[H:9],79.0776
[O:0][H:1].[O:2][C:3]([c:4]1[c:5]([H:16])[c:6]([H:17])[c:7]([H:18])[c:8]2[c:9]([H:19])[c:10]([H:20])[c:11]([H:21])[c:12]([H:22])[c:13]12)([H:14])[H:15]>>[O:0]([H:1])[H:14].[O:2]=[C:3]([c:4]1[c:5]([H:16])[c:6]([H:17])[c:7]([H:18])[c:8]2[c:9]([H:19])[c:10]([H:20])[c:11]([H:21])[c:12]([H:22])[c:13]12)[H:15],0.0
[H:0][H:1].[N:2]([H:3])[H:4]>>[H:0].[H:1][N:2]([H:3])[H:4],27.354992
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:9])([H:10])[H:11])[C:5](=[C:6]([H:13])[H:14])[H:12])[H:8])[H:7].[C:15](#[C:16][C:17]([C:18]([H:21])([H:22])[H:23])[H:20])[H:19]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:9])([H:10])[H:11])([C:5](=[C:6]([H:13])[H:14])[H:12])[C:17]([C:16]#[C:15][H:19])([C:18]([H:21])([H:22])[H:23])[H:20])[H:8])[H:7],33.9741
[C:0]([H:1])([H:2])([H:3])[H:4].[C:5]([C:6](=[S:7])[H:10])([H:8])[H:9]>>[C:0]([H:2])([H:3])[H:4].[H:1][C:5]([C:6](=[S:7])[H:10])([H:8])[H:9],111.294
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:8])([H:9])[H:10])[H:7])[H:6])[H:5].[C:11]([C:12]([c:13]1[c:14]([H:23])[c:15]([H:24])[c:16]([H:25])[c:17]([H:26])[c:18]1[H:27])[H:22])([H:19])([H:20])[H:21]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:8])([H:9])[H:10])[H:7])([H:6])[C:12]([C:11]([H:19])([H:20])[H:21])([c:13]1[c:14]([H:23])[c:15]([H:24])[c:16]([H:25])[c:17]([H:26])[c:18]1[H:27])[H:22])[H:5],39.5388
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([H:22])([H:23])[H:24])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9].[C:25]([H:26])([H:27])[H:28]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([H:22])([H:23])[H:24])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])[H:11])([H:8])[H:9].[H:10][C:25]([H:26])([H:27])[H:28],0.0
[C:0](=[N:1][H:3])[H:2].[O:4][H:5]>>[C:0](#[N:1])[H:2].[H:3][O:4][H:5],-4.97896
[C:0](=[C:1]([H:4])[H:5])([H:2])[H:3].[C:6]([C:7]([c:8]1[c:9]([H:18])[c:10]([H:19])[c:11]([H:20])[c:12]([H:21])[c:13]1[H:22])[H:17])([H:14])([H:15])[H:16]>>[C:0](=[C:1]([H:4])[H:5])[H:3].[H:2][C:7]([C:6]([H:14])([H:15])[H:16])([c:8]1[c:9]([H:18])[c:10]([H:19])[c:11]([H:20])[c:12]([H:21])[c:13]1[H:22])[H:17],102.157
[C:0](#[C:1][C:2](=[C:3]([C:4]([C:5]([C:6]([C:7](=[C:8]([H:18])[H:19])[H:17])[H:16])([H:14])[H:15])([H:12])[H:13])[H:11])[H:10])[H:9]>>[C:0](#[C:1][C:2]([C:3]1([H:11])[C:4]([H:12])([H:13])[C:5]([H:14])([H:15])[C:6]1([C:7](=[C:8]([H:18])[H:19])[H:17])[H:16])[H:10])[H:9],92.1317
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([C:4]([H:10])([H:11])[H:12])[H:6])[H:5].[C:13](#[C:14][C:15]=[S:16])[H:17]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])[H:5].[H:6][C:15]([C:14]#[C:13][H:17])=[S:16],64.852
[C:0](=[C:1]([S:2][H:6])[H:5])([H:3])[H:4].[C:7](=[C:8]([H:10])[H:11])[H:9]>>[C:0](=[C:1]([S:2])[H:5])([H:3])[H:4].[H:6][C:7](=[C:8]([H:10])[H:11])[H:9],-11.2968
[C:0]([C:1](=[C:2]([c:3]1[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]1[H:18])[H:13])[H:12])([H:9])([H:10])[H:11].[C:19]([H:20])([H:21])[H:22]>>[C:0]([C:1]([C:2]([c:3]1[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]1[H:18])([H:13])[C:19]([H:20])([H:21])[H:22])[H:12])([H:9])([H:10])[H:11],34.4343
[C:0](=[C:1][S:2][H:5])([H:3])[H:4].[C:6]([C:7]([S:8][H:19])([c:9]1[c:10]([H:20])[c:11]([H:21])[c:12]([H:22])[c:13]([H:23])[c:14]1[H:24])[H:18])([H:15])([H:16])[H:17]>>[C:0](=[C:1]([S:2][H:5])[H:18])([H:3])[H:4].[C:6]([C:7]([S:8][H:19])[c:9]1[c:10]([H:20])[c:11]([H:21])[c:12]([H:22])[c:13]([H:23])[c:14]1[H:24])([H:15])([H:16])[H:17],-49.3712
[C:0]([c:1]1[c:2]([H:10])[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]1[H:14])([H:7])([H:8])[H:9].[C:15]([H:16])([H:17])[H:18]>>[C:0]([C:1]1=[C:2]([H:10])[C:3]([H:11])=[C:4]([H:12])[C:5]([H:13])[C:6]1([H:14])[C:15]([H:16])([H:17])[H:18])([H:7])([H:8])[H:9],37.9756
